US06921759B2
Step 2: Preparation of methyl 8-hydroxy-5-{methyl[(1-methyl-1H-imidazol-4-yl) sulfonyl]amino}-1,6-naphthyridine-7-carboxylate
A solution of methyl-5-bromo-8-hydroxy-1,6-naphthyridine-7-carboxylate (0.969 g, 3.42 mmol), N,1-dimethyl-1H-imidazole-4-sulfonamide (0.60 g, 3.42 mmol) and Cu2O (0.49 g, 3.42 mmol) in pyridine (15 mL) was heated at reflux for 16 hr. The reaction was filtered and the solids washed with CHCl3 (100 mL). The filtrate was stirred for 1 hr with disodium ethylenediamine tetraacetate (1.0 g) in water (20 mL) in the presence of air. The organic extracts were stirred for 1 hr with disodium ethylenediamine tetraacetate (1.0 g in water 20 mL) in the presence of air. The organic extracts were dried (MgSO4) and the solvent evaporated in vacuo. The residue was suspended in acetonitrile (10 mL) and the resulting solid collected by filtration. The solids were washed with diethyl ether (5 mL) and dried in vacuo to afford the title compound as a solid.

reactant | methyl-5-bromo-8-hydroxy-1,6-naphthyridine-7-carboxylate | 3.42 mmol, 0.969 g | COC(=O)C1=NC(=C2C=CC=NC2=C1O)Br | C10H7BrN2O3
reactant | N,1-dimethyl-1H-imidazole-4-sulfonamide | 3.42 mmol, 0.60 g | CNS(=O)(=O)C=1N=CN(C1)C | C5H9N3O2S
solvent | pyridine | 15 mL | N1=CC=CC=C1 | C5H5N
product | methyl 8-hydroxy-5-{methyl[(1-methyl-1H-imidazol-4-yl) sulfonyl]amino}-1,6-naphthyridine-7-carboxylate | OC=1C(=NC(=C2C=CC=NC12)N(S(=O)(=O)C=1N=CN(C1)C)C)C(=O)OC | C15H15N5O5S
